US03966816
N-sec-butyl-3-chloro-2,4-dinitro-6-trifluoromethylaniline
To a stirred mixture of 20 g. (0.0655 mole) of 2,4-dichloro-3,5-dinitrobenzotrifluoride and 150 ml. of absolute ethanol was added 9.58 g. (0.131 mole) of sec-butylamine, dropwise, over a period of about 15 minutes. The resultant solution was refluxed for two hours and the ethanol then removed by distillation under reduced pressure. The solid yellow residue was triturated with 300 ml. water to dissolve the sec-butylamine hydrochloride. The water insoluble product was isolated by filtration, washed with water, and then dissolved in 600 ml. of refluxing 95% ethanol. Upon cooling, the product crystallized. Filtration gave 20.4 g. of a yellow crystalline solid, melting at 90.5° - 91.5°C.

reactant | 2,4-dichloro-3,5-dinitrobenzotrifluoride | 0.0655 mole | ClC1=C(C=C(C(=C1[N+](=O)[O-])Cl)[N+](=O)[O-])C(F)(F)F | C7HCl2F3N2O4
reactant | sec-butylamine | 0.131 mole | C(C)(CC)N | C4H11N
solvent | ethanol | C(C)O | C2H6O
product | N-sec-butyl-3-chloro-2,4-dinitro-6-trifluoromethylaniline | C(C)(CC)NC1=C(C(=C(C=C1C(F)(F)F)[N+](=O)[O-])Cl)[N+](=O)[O-] | C11H11ClF3N3O4
